US07244843B2
Step A. Preparation of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(2-methylpropyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one
To a stirring degassed solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(2-methyl-1-propenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (60 mg, 0.15 mmol) and 10% palladium on carbon (5 mg) in MeOH (2 mL) was added hydrogen (1 atm). After 2 h, the reaction was filter and the solid was washed with methanol. The organic layers were combined and conc. in vacuo to a colorless oil. The oil was purified by flash chromatography (silica gel, 0–50% EtOAc in hexanes) to give 28 mg of the desired product as a white solid. MS (ESI) 413 (M+H).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(2-methyl-1-propenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.15 mmol, 60 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)C=C(C)C)C(F)(F)F)=O)CC1 | C21H25F3N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 5 mg | [Pd] | Pd
solvent | MeOH | 2 mL | CO | CH4O
product | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(2-methylpropyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 28 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)CC(C)C)C(F)(F)F)=O)CC1 | C21H27F3N2O3
